US04284644
5-Benzyloxyspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (3.3 g.) was debenzylated by catalytic reduction in methanol. By this procedure there was obtained 5-hydroxyspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one as pale yellow needles, m.p. 180°-185° C. Yield 1.8 g.

reactant | 5-Benzyloxyspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 3.3 g | C(C1=CC=CC=C1)OC1=CC2=C(OC3(CC3)C2=O)C=C1 | C17H14O3
solvent | methanol | CO | CH4O
product | 5-hydroxyspiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | OC1=CC2=C(OC3(CC3)C2=O)C=C1 | C10H8O3
